US06566367B2
Dissolve 1′-(trans-4-ethoxycarbonyl-cyclohexylmethyl)carbamoyl-spiro[isobenzofuran-1,4′piperidin]-3-one (21 mg, 0.05 mmol) in THF (2 mL) and add an equal volume of water. Add LiOH•H2O (11 mg, 0.26 mmol) to this mixture and heat at 60° C. for 3 hours with stirring. Evaporate the THF under reduced pressure, dilute the residue with water and acidify with 3N HCL. Extract the aqueous mixture with EtOAc, wash with brine, dry (Na2SO4) and concentrate under reduced pressure to obtain 1′-(trans-4-carboxy-cyclohexylmethyl)carbamoyl-spiro[isobenzofuran-1,4′piperidin]-3-one as a white solid.

reactant | 1′-(trans-4-ethoxycarbonyl-cyclohexylmethyl)carbamoyl-spiro[isobenzofuran-1,4′piperidin]-3-one | 0.05 mmol, 21 mg | C(C)OC(=O)[C@@H]1CC[C@H](CC1)CNC(=O)N1CCC2(CC1)OC(C1=CC=CC=C12)=O | C23H30N2O5
reactant | water | O | H2O
reactant | LiOH•H2O | 0.26 mmol, 11 mg | O[Li].O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1′-(trans-4-carboxy-cyclohexylmethyl)carbamoyl-spiro[isobenzofuran-1,4′piperidin]-3-one | C(=O)(O)[C@@H]1CC[C@H](CC1)CNC(=O)N1CCC2(CC1)OC(C1=CC=CC=C12)=O | C21H26N2O5
